US07625914B2
0.4 g (0.4 mass equivalent) of 10% palladium-on-charcoal is added to a solution of 0.9 g (2.7 mmol) of methyl 2(S)-ethoxy-3-[4-(2-methyl-5-nitro-2H-[1,2,4]triazol-3-yl)phenyl]propanoate in 40 ml of ethanol and 10 ml of methanol, degassed beforehand, and the reaction medium is placed under an atmospheric pressure of hydrogen for 3 hours. After filtration through Celite and washing with ethyl acetate, the filtrate is evaporated under vacuum. 0.82 g (100%) of methyl 3-[4-(5-amino-2-methyl-2H-[1,2,4]triazol-3-yl)phenyl]-2(S)-ethoxypropanoate is obtained.

reactant | methyl 2(S)-ethoxy-3-[4-(2-methyl-5-nitro-2H-[1,2,4]triazol-3-yl)phenyl]propanoate | 2.7 mmol, 0.9 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1N(N=C(N1)[N+](=O)[O-])C | C15H18N4O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.4 g | [Pd] | Pd
product | methyl 3-[4-(5-amino-2-methyl-2H-[1,2,4]triazol-3-yl)phenyl]-2(S)-ethoxypropanoate | 0.82 g, 100% | NC=1N=C(N(N1)C)C1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC | C15H20N4O3
